US06399629B1
(B) trans-4Glycylamino-L-Proline 4-[4′-Methylphenoxy)phenylamide Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (6 mL) was added to a solution of trans-4-(N-tert-butoxylcarbonylglycylamino)-L-Proline 4-(4′-methylphenoxy)phenylamide (A, 210 mg) in 1,4-dioxane (6 mL) at room temperature. After stirring at room temperature for 1 hr, the reaction mixture was concentrated in vacuo. The residue was washed with ether to give the title compound (106 mg) as colorless crystals: 1H NMR (400 MHz, D2O) δ 1.28 (s, 3 H), 2.59 (m, 2 H), 3.50 (br d, J=8.8 Hz, 1H), 3.82 (t, J=6.0 Hz, 1H), 3.87 (s, 2 H), 4.61 (br s, 1 H), 4.96 (m, 1 H), 6.92 (d, J=7.5 Hz, 2 H), 7.00 (d, J=7.8 Hz, 2 H), 7.19 (d, J=7.5 Hz, 2 H), and 7.43 (d, J=7.8 Hz, 2 H).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | trans-4-(N-tert-butoxylcarbonylglycylamino)-L-Proline 4-(4′-methylphenoxy)phenylamide | CC1=CC=C(OC2=CC=C(C=C2)NC([C@H]2NC[C@@H](C2)NC(CNC(=O)OC(C)(C)C)=O)=O)C=C1 | C25H32N4O5
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | trans-4Glycylamino-L-Proline 4-[4′-Methylphenoxy)phenylamide Dihydrochloride | 106 mg | Cl.Cl.CC1=CC=C(OC2=CC=C(C=C2)NC([C@H]2NC[C@@H](C2)NC(CN)=O)=O)C=C1 | InChI=1S/C20H24N4O3.2ClH/c1-13-2-6-16(7-3-13)27-17-8-4-14(5-9-17)24-20(26)18-10-15(12-22-18)23-19(25)11-21;;/h2-9,15,18,22H,10-12,21H2,1H3,(H,23,25)(H,24,26);2*1H/t15-,18+;;/m1../s1
